US08809363B2
Step 1: 1-[2-(allyloxy)-4-methylphenyl]ethanone
To a solution of 1-(2-hydroxy-4-methyl-phenyl)-ethanone (10 g, 67 mmol) in dimethylformamide (100 mL) was added potassium carbonate (18.4 g, 133 mmol), followed by allyl bromide (5.75 mL, 67 mmol). The reaction was stirred at room temperature for 16 hours. The residue was partitioned between ethyl acetate (200 mL) and water (800 mL), the organics were separated, and washed with brine (50 mL), dried over MgSO4 and concentrated in vacuo. After cooling the concentrate to room temperature the title compound crystallised as colourless platelets, 12.40 g, in a 98% yield. LCMS (2 min acidic) 1.20 min 72-100% pure by UV, ES+/AP+ 191. 1HNMR (400 MHz, CDCl3) δ ppm 2.37 (s, 3H), 2.63 (s, 3H), 4.61-4.66 (m, 2H), 5.33 (dq, 1H), 5.44 (dq, 1H), 6.10 (m, 1H), 6.76 (s, 1H), 6.80-6.83 (m, 1H), 7.68 (d, 1H).

reactant | 1-(2-hydroxy-4-methyl-phenyl)-ethanone | 67 mmol, 10 g | OC1=C(C=CC(=C1)C)C(C)=O | C9H10O2
reactant | potassium carbonate | 133 mmol, 18.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 67 mmol, 5.75 mL | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1-[2-(allyloxy)-4-methylphenyl]ethanone | 98% yield | C(C=C)OC1=C(C=CC(=C1)C)C(C)=O | C12H14O2
